US07553837B2
Production of 6-nitro-4-hydroxy-2-methoxymethyl-2,5,7,8-tetramethylchroman
To 10 g of 6-nitro-2-methoxymethyl-2,5,7,8-tetramethylchroman-4-one, 100 ml of methanol was added and 1.3 g of sodium borohydride was added at 0° C., followed by stirring at 0° C. for one hour. The reaction solution was poured into water and then extracted with ethyl acetate. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration and concentrating under reduced pressure, 10.1 g of the objective compound was obtained.

reactant | 6-nitro-2-methoxymethyl-2,5,7,8-tetramethylchroman-4-one | 10 g | [N+](=O)([O-])C=1C(=C2C(CC(OC2=C(C1C)C)(C)COC)=O)C | C15H19NO5
reactant | methanol | 100 ml | CO | CH4O
reactant | sodium borohydride | 1.3 g | [BH4-].[Na+]
solvent | water | O | H2O
product | 6-nitro-4-hydroxy-2-methoxymethyl-2,5,7,8-tetramethylchroman | 10.1 g | [N+](=O)([O-])C=1C(=C2C(CC(OC2=C(C1C)C)(C)COC)O)C | C15H21NO5
